US08431581B2
Preparation of 4-fluoro-2-methylsulfanyl-1-nitro-benzene
To a mixture of compound 2,4-difluoro-1-nitro-benzene (10 g, 62.9 mmol), pyridine (10 ml, 124 mmol) in MeOH (30 ml) was added the solution of sodium thiomethoxide(20%, 300 mmol) in methanol drop-wise at 0° C. The mixture was stirred for 2 hour and then diluted with dichloromethane. The mixture was washed with brine, dried over MgSO4 and evaporated under reduced pressure. The resulting residue was recrystallized from ethyl acetate to give titled compound (10 g, yield 85%)

reactant | 2,4-difluoro-1-nitro-benzene | 62.9 mmol, 10 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | pyridine | 124 mmol, 10 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium thiomethoxide | 300 mmol | C[S-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-fluoro-2-methylsulfanyl-1-nitro-benzene | 10 g, yield 85% | FC1=CC(=C(C=C1)[N+](=O)[O-])SC | C7H6FNO2S
